US04292317
28 g of 7-chloro-6-fluoro-1-(2-hydroxyethyl)-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid, 40 g of 1-methyl piperazine and 200 cm3 of pyridine were heated for 18 hours under reflux. The solvent was removed by distillation under reduced pressure. The residue was taken up in 100 cm3 of water, the mixture was agitated and adjusted to pH 6.8 by the addition of acetic acid. The solid was filtered off, washed with water and recrystallised from DMF. 24 g of 6-fluoro-1-(2-hydroxyethyl)-7-(4-methyl-piperazinyl)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid, m.p. 270° C., were obtained.

reactant | 7-chloro-6-fluoro-1-(2-hydroxyethyl)-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid | 28 g | ClC1=C(C=C2C(C(=CN(C2=C1)CCO)C(=O)O)=O)F | C12H9ClFNO4
reactant | 1-methyl piperazine | 40 g | CN1CCNCC1 | C5H12N2
solvent | pyridine | 200 cm3 | N1=CC=CC=C1 | C5H5N
product | 6-fluoro-1-(2-hydroxyethyl)-7-(4-methyl-piperazinyl)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 24 g | FC=1C=C2C(C(=CN(C2=CC1N1CCN(CC1)C)CCO)C(=O)O)=O | C17H20FN3O4
